US08604034B2
8-({[tert-butyl(dimethyl)silyl]oxy}methyl)-10a-(4-chlorophenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (75 mg, 0.14 mmol) was dissolved in a mixture acetic acid/THF/water (3:1:1, 2.5 mL). The solution was stirred at room temperature overnight. After this time there was not anymore starting material (monitored by LCMS). CH2Cl2 was added (20 mL) and washed with saturated aqueous solution of NaHCO3 (3×7 mL). The organic layers were dried (MgSO4), filtered and the filtrate concentrated in vacuo to yield a colourless gum. Purification by flash column chromatography (Biotage SP4, 4 g cartridge, 0-10% MeOH gradient in CH2Cl2) gave 10a-(4-chlorophenyl)-8-(hydroxymethyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one as a white solid (33 mg, 55% yield). 1H NMR (400 MHz, d6-acetone): δ 2.32 (d, 3H, J 0.5 Hz), 3.75-3.85 (m, 1H), 4.19-4.36 (m, 3H), 4.43-4.47 (d, 1H, J 13.1 Hz), 4.58-4.69 (m, 2H), 6.03 (d, 1H, J 13.2 Hz), 6.09 (d, 1H, J 3.8 Hz), 6.61 (d, 1H, J 3.8 Hz), 7.28-7.32 (m, 2H), 7.50-7.54 (m, 2H), 9.16 (s, 1H). ESI-MI m/z [M+H]+ 427.2.

reactant | 8-({[tert-butyl(dimethyl)silyl]oxy}methyl)-10a-(4-chlorophenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.14 mmol, 75 mg | [Si](C)(C)(C(C)(C)C)OCC1=CC=C2N1CC1(N(C2=O)CCN1C(=O)C=1C(=NOC1)C)C1=CC=C(C=C1)Cl | C27H33ClN4O4Si
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | acetic acid THF water | 2.5 mL | C(C)(=O)O.C1CCOC1.O
product | 10a-(4-chlorophenyl)-8-(hydroxymethyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 33 mg, 55% yield | ClC1=CC=C(C=C1)C12N(C(C=3N(C1)C(=CC3)CO)=O)CCN2C(=O)C=2C(=NOC2)C | C21H19ClN4O4
